US06048894
(1) Preparation of tert-butyl (2RS,3RS)-2-[N-[(1RS,2RS)-2-(tert-butoxycarbonyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-5-oxotetrahydrofuran-3-carboxylate
86 mg of tert-butyl (2RS,3RS)-2-{5-(phenylcarbamoyl)-2-furylmethyl}-3-{(E)-3-phenyl-2-propenylamino}butanoate prepared in Reference Example 3, 46 mg of (2RS,3RS)-3-(tert-butoxycarbonyl)-5-oxotetrahydrofuran-2-carboxylic acid prepared in Reference Example 6 and 140 μl of triethylamine were dissolved in 2 ml of chloroform and stirred with 41 mg of 2-chloro-1,3-dimethylimidazolinium chloride in 1 ml of chloroform under cooling with ice for 10 minutes and then at room temperature for 1 hour. The reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=10/1→2/1] to give 124 mg (stoichiometric yield) of the title compound as a colorless oily substance.

reactant | tert-butyl (2RS,3RS)-2-{5-(phenylcarbamoyl)-2-furylmethyl}-3-{(E)-3-phenyl-2-propenylamino}butanoate | 86 mg | C1(=CC=CC=C1)NC(=O)C1=CC=C(O1)CC(C(=O)OC(C)(C)C)C(C)NC\C=C\C1=CC=CC=C1 | C29H34N2O4
reactant | (2RS,3RS)-3-(tert-butoxycarbonyl)-5-oxotetrahydrofuran-2-carboxylic acid | 46 mg | C(C)(C)(C)OC(=O)C1C(OC(C1)=O)C(=O)O | C10H14O6
reactant | triethylamine | 140 μl | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 41 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | tert-butyl (2RS,3RS)-2-[N-[(1RS,2RS)-2-(tert-butoxycarbonyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-5-oxotetrahydrofuran-3-carboxylate | C(C)(C)(C)OC(=O)C(C(C)N(C(=O)C1OC(CC1C(=O)OC(C)(C)C)=O)C\C=C\C1=CC=CC=C1)CC=1OC(=CC1)C(NC1=CC=CC=C1)=O | C39H46N2O9
